US05037829
To a vigorously stirred amount of 45 parts of aluminum chloride were added dropwise 7.05 parts of N,N-dimethylformamide. After stirring for 5 min. at 70° C., there were added 5 parts of benzoyl chloride and, dropwise, 4.7 parts of 3,4-dihydro-2(1H)-quinazolinone. Stirring was continued for 2 hours at 70° C. The reaction mixture was poured into ice-water and there were added 63.5 parts of HCl. The precipitate was filtered off and recrystallized from 2-methoxyethanol, yielding 6.5 parts (76.4%) of 6-benzoyl-3,4-dihydro-2(1H)-quinazolinone; mp. 264.8° C. (interm. 1).

reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 3,4-dihydro-2(1H)-quinazolinone | N1C(NCC2=CC=CC=C12)=O | C8H8N2O
reactant | HCl | Cl | ClH
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 6-benzoyl-3,4-dihydro-2(1H)-quinazolinone | 76.4% | C(C1=CC=CC=C1)(=O)C=1C=C2CNC(NC2=CC1)=O | C15H12N2O2
